US07057042B2
2-(chloromethyl)-5-methoxy[1,3]thiazolo[5,4-b]pyridine
3-Amino-6-methoxy-2-pyridinethiol (0.8 g, Maybridge Co.) and 2-chloro-1,1,1-triethoxyethane (1.26 g) were combined in ethanol (5 mL) and heated at 90° C. in a sealed tube for 2 hours. The mixture was allowed to cool to room temperature and filtered. The filtrate was concentrated under reduced pressure and the residue was purified by flash chromatography (2:1, dichloromethane:hexanes) to provide the title compound. 1H NMR (CDCl3, 300 MHz) δ 4.00 (3H, s), 4.88 (2H, s), 6.88 (1H, d, J=8.7 Hz), 8.10 (1H, d, J=8.7 Hz); MS (DCI/NH3) m/z 215.0 (M+H)+.

reactant | 3-Amino-6-methoxy-2-pyridinethiol | 0.8 g | NC=1C(=NC(=CC1)OC)S | C6H8N2OS
reactant | 2-chloro-1,1,1-triethoxyethane | 1.26 g | ClCC(OCC)(OCC)OCC | C8H17ClO3
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2-(chloromethyl)-5-methoxy[1,3]thiazolo[5,4-b]pyridine | ClCC=1SC2=NC(=CC=C2N1)OC | C8H7ClN2OS
